US08252806B2
Cyclopropyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride (Compound A6)
Was prepared according to Method A from 2,4-dichloroquinazoline, cyclopropylamine and 3,5-dimethylpyrazole. Mp. 254° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | Cyclopropyl-[2-(3,5-dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-amine, Hydrochloride | Cl.C1(CC1)NC1=NC(=NC2=CC=CC=C12)N1N=C(C=C1C)C | InChI=1S/C16H17N5.ClH/c1-10-9-11(2)21(20-10)16-18-14-6-4-3-5-13(14)15(19-16)17-12-7-8-12;/h3-6,9,12H,7-8H2,1-2H3,(H,17,18,19);1H
